US06525052B2
N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (2 g, 6.0 mmol, 1.0 equiv) was dissolved in dry THF (20 mL). tert-Butylacetaldehyde (0.758 mL, 6.0 mmol, 1.0 equiv) and DBU (0.903 mL, 6.0 mmol, 1.0 equiv) were added and the reaction mixture was stirred for 16 h. The solution was diluted with 100 mL of CH2Cl2 and washed with 1×50 mL water, and 1×50 mL brine. The organic layer was dried over Na2SO4, decanted and concentrated in vacuo to provide 2-benzyloxycarbonylamino-5,5-dimethyl-hex-2-enoic acid methyl ester as a thick oil (1.73 g, 94%) which was used without further purification; MS: 306 (M+1).

reactant | N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | 6.0 mmol, 2 g, 1.0 equiv | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | tert-Butylacetaldehyde | 6.0 mmol, 0.758 mL, 1.0 equiv | C(C)(C)(C)CC=O | C6H12O
reactant | DBU | 6.0 mmol, 0.903 mL, 1.0 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylamino-5,5-dimethyl-hex-2-enoic acid methyl ester | 1.73 g, 94% | COC(C(=CCC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C17H23NO4
